US08119563B2
Step D Synthesis of 4-{bis[4-(trifluoromethoxy)phenyl]methyl}-1-{[4-(2-methoxyethoxy)phenyl]methyl}piperidin-4-ol (Compound 308 in table below) as an Intermediate
A solution of 2.2 grams (0.0050 mole) of 4-{bis[4-(trifluoromethoxy)phenyl]methyl}piperidin-4-ol, 1.1 grams (0.0061 mole) of 4-(2-methoxyethoxy)benzaldehyde and 1.35 grams (0.0064 mole) of sodium triacetoxyborohydride in 25 mL of methylene chloride was stirred at ambient temperature for 18 hours. The reaction mixture was then diluted with 200 mL of water and stirred at ambient temperature for 5 hours. The phases were separated. The organic phase was washed three times; first, with 100 mL of an aqueous mixture of 10% sodium hydroxide, second, with 100 mL of an aqueous mixture of 10% lithium chloride, and, third, with 100 mL of brine. The resultant organic layer was dried over magnesium sulfate, filtered and concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using methylene chloride:1%-5% methanol as an eluant. The appropriate fractions were combined and concentrated under reduced pressure, yielding 2.2 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 4-{bis[4-(trifluoromethoxy)phenyl]methyl}piperidin-4-ol | 0.0050 mole, 2.2 grams | FC(OC1=CC=C(C=C1)C(C1(CCNCC1)O)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C20H19F6NO3
reactant | 4-(2-methoxyethoxy)benzaldehyde | 0.0061 mole, 1.1 grams | COCCOC1=CC=C(C=O)C=C1 | C10H12O3
reactant | sodium triacetoxyborohydride | 0.0064 mole, 1.35 grams | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | water | 200 mL | O | H2O
product | 4-{bis[4-(trifluoromethoxy)phenyl]methyl}-1-{[4-(2-methoxyethoxy)phenyl]methyl}piperidin-4-ol | 2.2 grams | FC(OC1=CC=C(C=C1)C(C1(CCN(CC1)CC1=CC=C(C=C1)OCCOC)O)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C30H31F6NO5
